US04837242
To a solution of 0.82 g (5.07 mmol) of 1,1-dimethyl-4-aminoindan and 0.48 g (6.08 mmol) of pyridine in 10 ml of tetrahydrofuran was added dropwise with stirring below 5° C. under ice cooling, a solution of 0.99 g (5.07 mmol) of 2-chloro-4-methylthiazole-5-carboxylic acid chloride in 3 ml of tetrahydrofuran, followed by stirring at room temperature overnight. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with 5% hydrochloric acid and then water and was dried over anhydrous sodium sulfate. The solvent was distilled off to obtain crystals, which was washed with n-hexane and dried to obtain 1.51 g of N-(1,1-dimethyl-4-indanyl)-2-chloro-4-methylthiazole-5-carboxamide (yeild 93%).

reactant | 1,1-dimethyl-4-aminoindan | 5.07 mmol, 0.82 g | CC1(CCC2=C(C=CC=C12)N)C | C11H15N
reactant | pyridine | 6.08 mmol, 0.48 g | N1=CC=CC=C1 | C5H5N
reactant | 2-chloro-4-methylthiazole-5-carboxylic acid chloride | 5.07 mmol, 0.99 g | ClC=1SC(=C(N1)C)C(=O)Cl | C5H3Cl2NOS
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | N-(1,1-dimethyl-4-indanyl)-2-chloro-4-methylthiazole-5-carboxamide | 1.51 g, 93% | CC1(CCC2=C(C=CC=C12)NC(=O)C1=C(N=C(S1)Cl)C)C | C16H17ClN2OS
